US05728835
4-Nitro-N-(3,4-dimethylphenyl)benzamide
Using 3,4-xylidine (1.35 g, 11.0 mmol) and 4-nitrobenzoic acid (1.69 g, 10.0 mmol), the procedure of Reference Example 16 was repeated to obtain 2.70 g (quantitative) of the title compound in the form of light yellow crystals.

reactant | 3,4-xylidine | 11.0 mmol, 1.35 g | NC1=CC(=C(C=C1)C)C | C8H11N
reactant | 4-nitrobenzoic acid | 10.0 mmol, 1.69 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(3,4-dimethylphenyl)benzamide | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC(=C(C=C2)C)C)C=C1 | C15H14N2O3
